US06960575B2
Methyl (2RS,3RS)-3-tert-butyldimethylsilyloxy-2-(2-oxo-2-phenylethyl)aminobutyrate (Reference compound No. 55-1)
Diisopropylethylamine (3.1 ml) is added to a solution of methyl (2RS,3RS)-3-hydroxy-2-(2-oxo-2-phenylethyl)aminobutyrate (3.70 g, Reference compound No. 46-10) in methylene chloride (35 ml). The mixture is cooled with ice, and tert-butyldimethylsilyl trifluoromethanesulfonate (4.06 ml) is added to the mixture. Then, the temperature is raised to room temperature, and the whole is stirred overnight. Diethyl ether is added to the reaction mixture, and the whole is washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, and the organic layer is dried over anhydrous magnesium sulfate. The organic layer is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (4.21 g).

reactant | Diisopropylethylamine | 3.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl (2RS,3RS)-3-hydroxy-2-(2-oxo-2-phenylethyl)aminobutyrate | OC(C(C(=O)OC)NCC(C1=CC=CC=C1)=O)C | C13H17NO4
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 4.06 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | Methyl (2RS,3RS)-3-tert-butyldimethylsilyloxy-2-(2-oxo-2-phenylethyl)aminobutyrate | 4.21 g | [Si](C)(C)(C(C)(C)C)OC(C(C(=O)OC)NCC(C1=CC=CC=C1)=O)C | C19H31NO4Si
